data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
597,654,[CH3:14][N:15]=[NH+:16][N-:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1.[CH:1]1=[CH:2][CH:3]2[O:4][CH:5]1[CH:6]=[C:7]2[c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1>>[CH:1]1=[CH:2][CH:3]2[O:4][CH:5]1[CH:6]1[C:7]2([c:8]2[cH:9][cH:10][cH:11][cH:12][cH:13]2)[N:17]([c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[NH:16][N:15]1[CH3:14],water,298.15,30.401058647465263,-11.715917264738565
3474,3956,[CH2:10]=[O+:11][C-:12]([C:13]#[N:14])[C:15](=[O:16])[NH:17][CH3:18].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:12]([C:13]#[N:14])([C:15](=[O:16])[NH:17][CH3:18])[O:11][CH2:10]1,water,298.15,4.844861584562857,-46.902811539341535
2325,2583,[CH3:21][C:22](=[O:23])[C:24]#[N+:25][C-:26]([C:27]([CH3:28])=[O:29])[C:30]([CH3:31])=[O:32].[F:1][C:2]([F:3])([F:4])[C:5](=[C:6]([C:7]([F:8])([F:9])[F:10])[C:11]([F:12])([F:13])[F:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[F:1][C:2]([F:3])([F:4])[C:5]1([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[C:6]([C:7]([F:8])([F:9])[F:10])([C:11]([F:12])([F:13])[F:14])[C:26]([C:27]([CH3:28])=[O:29])([C:30]([CH3:31])=[O:32])[N:25]=[C:24]1[C:22]([CH3:21])=[O:23],water,298.15,30.68409721838078,-0.0904635252942208
1326,1455,[CH3:10][NH:11][C:12](=[O:13])[c:14]1[o:15][c:16](=[O:17])[c-:18](-[c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[n+:25]1[CH3:26].[CH3:1][O:2][C:3]1=[CH:4][CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2>>[CH3:1][O:2][C:3]12[CH:4]([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[C:14]1([C:12]([NH:11][CH3:10])=[O:13])[O:15][C:16](=[O:17])[C:18]2([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[N:25]1[CH3:26],water,298.15,23.76576582360495,-6.8064671497221845
1740,1927,[CH3:19][NH:20][C:21](=[O:22])[CH:23]=[NH+:24][CH-:25][C:26]#[N:27].[CH3:1][NH:2][C:3](=[O:4])[C:5](=[C:6]([C:7]([F:8])([F:9])[F:10])[C:11]([F:12])([F:13])[F:14])[C:15]([F:16])([F:17])[F:18]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:15]([F:16])([F:17])[F:18])[C:6]([C:7]([F:8])([F:9])[F:10])([C:11]([F:12])([F:13])[F:14])[CH:23]([C:21]([NH:20][CH3:19])=[O:22])[NH:24][CH:25]1[C:26]#[N:27],water,298.15,16.978666970306005,-11.19502645637521
4609,5255,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][n+:12]1[c:13]([C:14]#[N:15])[o:16][c:17](=[O:18])[c-:19]1-[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:13]1([C:14]#[N:15])[N:12]([CH3:11])[C:19]2([c:20]2[cH:21][cH:22][cH:23][cH:24][cH:25]2)[C:17](=[O:18])[O:16]1,water,298.15,29.29660718873185,10.352130261120498
389,421,[CH3:1][O:2][C:3]#[C:4][Br:5].[CH3:6][NH:7][C:8](=[O:9])[c:10]1[nH+:11][c-:12]([C:13]#[N:14])[c:15](=[O:16])[o:17]1>>[CH3:1][O:2][C:3]1=[C:4]([Br:5])[C:10]2([C:8]([NH:7][CH3:6])=[O:9])[NH:11][C:12]1([C:13]#[N:14])[C:15](=[O:16])[O:17]2,water,298.15,31.578975098538223,-15.928712771457128
117,133,[CH3:12][O:13][C:14](=[O:15])[N-:16][N+:17]#[N:18].[N:1]#[C:2][C:3]1=[C:4]([C:5]#[N:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[N:1]#[C:2][C:3]1=[C:4]([C:5]#[N:6])[CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[N:16]([C:14]([O:13][CH3:12])=[O:15])[N:17]=[N:18]3,water,298.15,25.38885679828508,-26.10558087771627
518,565,[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([Br:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2.[CH:13]#[N+:14][C-:15]([CH3:16])[C:17]#[N:18]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([Br:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:15]([CH3:16])([C:17]#[N:18])[N:14]=[CH:13]2,water,298.15,13.961613339622396,-42.32524007848203
1283,1404,[CH3:12][NH:13][C:14](=[O:15])[C-:16]([N+:17]#[C:18][C:19]([CH3:20])=[O:21])[C:22](=[O:23])[NH:24][CH3:25].[CH3:1][C:2]1([CH3:3])[C:4]#[C:5][CH:6]([F:7])[CH2:8][CH2:9][CH2:10][CH2:11]1>>[CH3:1][C:2]1([CH3:3])[C:4]2=[C:5]([CH:6]([F:7])[CH2:8][CH2:9][CH2:10][CH2:11]1)[C:16]([C:14]([NH:13][CH3:12])=[O:15])([C:22](=[O:23])[NH:24][CH3:25])[N:17]=[C:18]2[C:19]([CH3:20])=[O:21],water,298.15,12.641077991188505,-58.90256057753411
4504,5137,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C:12]([C:13]#[N:14])=[N+:15]([CH3:16])[C-:17]([CH3:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:12]([CH3:11])([C:13]#[N:14])[N:15]([CH3:16])[C:17]2([CH3:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,31.73110011172507,-13.019452946418037
1987,2208,[CH3:12][NH:13][C:14](=[O:15])[C:16](=[NH+:17][CH-:18][C:19](=[O:20])[O:21][CH3:22])[C:23](=[O:24])[NH:25][CH3:26].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Br:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([Br:6])([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[C:16]([C:14]([NH:13][CH3:12])=[O:15])([C:23](=[O:24])[NH:25][CH3:26])[NH:17][CH:18]2[C:19](=[O:20])[O:21][CH3:22],water,298.15,18.047765829017035,-25.68621334308005
